US05534529
21(iv) 2-(1-Phenylcyclopentyl)methyl-1,3-dithiane
720 μl of a 1.6M hexane solution of butyllithium were added dropwise at -78° C. to a solution of 126 mg (1.05 mmol) of 1,3-dithiane in a mixture of 1.5 ml of tetrahydrofuran and 720 μl of hexamethylphosphoric triamide, whilst stirring, and the resulting mixture was stirred for 10 minutes whilst cooling in an ice-salt bath. At the end of this time, a solution of 200 mg (0.699 mmol) of 2-(1-phenylcyclopentyl)methyl iodide [prepared as described in step (iii) above] in 1 ml of tetrahydrofuran was added dropwise to the mixture at -78° C. The resulting mixture was then stirred for 20 minutes, whilst cooling in an ice-salt bath. In order to stop the reaction, a saturated aqueous solution of ammonium chloride was then added to the reaction mixture, which was then extracted with diethyl ether. The extract was washed with a saturated aqueous solution of sodium chloride. The organic phase was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by column chromatography through 15 g of silica gel, using a 3:2 by volume mixture of hexane and methylene chloride as the eluent, to give 100 mg (yield 51%) of the title compound as a colorless foam-like material.

reactant | hexane | 1.6M | CCCCCC | C6H14
reactant | butyllithium | C(CCC)[Li]
reactant | 1,3-dithiane | 1.05 mmol, 126 mg | S1CSCCC1 | C4H8S2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 720 μl | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2-(1-Phenylcyclopentyl)methyl-1,3-dithiane | 100 mg, yield 51% | C1(=CC=CC=C1)C1(CCCC1)CC1SCCCS1 | C16H22S2
